Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
bee stings
 
Attending: ___.
 
Chief Complaint:
Alcohol Intoxication

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo m known to the neurosurgery service for recent fall
while intoxicated with small Left temporoparietal SDH that was
stable on repeat imaging.  During his admission it was 
identified
that he might be homeless.  Social work was consulted for
referral to alcohol detox/rehab programs however the patient did
not appear to follow through with any plans for alcohol rehab. 
He desired to leave the hospital without any further plan in
place for alcohol rehab.  He was discharged today with a stable
neurological exam, stable head CT and a plan for follow up in
___.  He was found down intoxicated by police 
and
brought to ___ where they repeated a head CT and
sent him to ___ for further evaluation.  ___ unable to give
history due to intoxication.

 
Past Medical History:
etoh abuse

 
Social History:
___
Family History:
Unknown
 
Physical Exam:
O: T: 97.1 HR: 80 P: 108/76 RR: 18 Sat: 95% RA
Gen: WD/WN, comfortable, NAD.
HEENT: scratches/scabs on face
Neck: Supple.
Extrem: Warm and well-perfused.
Neuro:
Mental status: Intoxicated, Awake and alert, attends and 
follows.
Orientation: Oriented to person, place, and date.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 3 to 2
mm bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch bilaterally.

On Discharge:
Patient left the hospital against medical advice.
Prior to discharge:
a&ox3
PERRL
EOMs intact
Face symmetrical
tongue midline
Motor: ___
 
Pertinent Results:
Head CT ___: stable L SDH when compared to imaging done on 
___. No midline shift or mass effect.
 
Brief Hospital Course:
___ y/o M who was previously admitted on ___ after a fall with 
+ETOH for L SDH. Patient left on ___ against medical advice. He 
presented to the ED on ___ evening after alcohol intoxication. 
Repeat head CT reveals stable L SDH. Patient was admitted to the 
neurosurgery service for further monitoring. On ___, patient 
was neurologically intact on exam. Social work saw patient and 
discussed detox facilities and patient kindly stated that he 
will look into them. He had one episode of nausea and vomiting. 
The nurse went into the room to give him his medication and 
found the IV laying on the bed and his belongings were gone. 
Patient was left the hospital against medical advice. 
 
Medications on Admission:
was on dilantin prior to leaving on ___
 
Discharge Medications:
None- patient left against medical advice
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left subdural hematoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for a left subdural hematoma which does not 
require surgical intervention. 

We recommend that you should take dilantin 100mg TID x 7 days. 
Dilantin (Phenytoin) is for anti-seizure medicine, take it as 
prescribed and follow up with laboratory blood drawing in one 
week.  This can be drawn at your PCP’s office, but please have 
the results faxed to ___.

CALL YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING

•New onset of tremors or seizures.
•Any confusion, lethargy or change in mental status. 
•Any numbness, tingling, weakness in your extremities.
•Pain or headache that is continually increasing, or not 
relieved by pain medication.
•New onset of the loss of function, or decrease of function on 
one whole side of your body.

Social Work has seen the patient and recommended certain detox 
facilities near his home and gave patient phone numbers to 
contact to seek help if he would like to pursue it.

 
Followup Instructions:
___